US08466145B2
Step 1: (1R,3S)-1,2,2-Trimethyl-3-(methylcarbamoyl)cyclopentanecarboxylic acid
A mixture of 40% aqueous methylamine (70 mL) and camphoric anhydride (5 g) was stirred at room temperature for 30 minutes. To this N,N-dimethyl-4-aminopyridine (DMAP) (0.67 g, 5.4 mmol) was added and stirred further for 24 hours. The reaction mixture was allowed to cool to room temperature and acidified with con. HCl at 0-5° C. White precipitate formed was filtered and dried (5.2 g). m/z (M+H): 214.1.

reactant | camphoric anhydride | 5 g | C1(C2(C)C(C)(C)C(C(=O)O1)CC2)=O | C10H14O3
reactant | HCl | Cl | ClH
reactant | methylamine | 70 mL | CN | CH5N
catalyst | N,N-dimethyl-4-aminopyridine | 5.4 mmol, 0.67 g | CN(C)C1=CC=NC=C1 | C7H10N2
product | (1R,3S)-1,2,2-Trimethyl-3-(methylcarbamoyl)cyclopentanecarboxylic acid | C[C@@]1(C([C@H](CC1)C(NC)=O)(C)C)C(=O)O | C11H19NO3
